US07846925B2
5-[1,3]Dioxolan-2-yl-benzofuran (50 mg, 0.26 mmol) was dissolved in TIE (2 mL) and the solution was cooled down to −78° C. Butyl lithium (180 uL, 1.1 eq.) was added dropwise. This mixture was stirred 30 min at 25° C. Then the reaction mixture was cooled down to −78° C. and NCS (39 mg, 1.1 eq.) dissolved in 1 mL THF was added dropwise to the reaction mixture. After 1 h30 at −78° C. only small amount of starting material could be detected. The temperature was increased slowly to room temperature overnight. Water and ethyl acetate were added to the mixture and the aqueous layer was extracted 3 times. Combined organic phases was dried over MgSO4, filtrated and evaporated to give 2-Chloro-5-[1,3]dioxolan-2-yl-benzofuran (48.1 mg, 81%) sufficiently pure to be used in the next step.

reactant | 5-[1,3]Dioxolan-2-yl-benzofuran | 0.26 mmol, 50 mg | O1C(OCC1)C=1C=CC2=C(C=CO2)C1 | C11H10O3
reactant | Butyl lithium | 180 uL, 1.1 eq. | C(CCC)[Li]
reactant | NCS | 39 mg, 1.1 eq. | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | Water | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-5-[1,3]dioxolan-2-yl-benzofuran | 48.1 mg, 81% | ClC=1OC2=C(C1)C=C(C=C2)C2OCCO2 | C11H9ClO3
